US07759337B2
To a cooled solution of N,N-diisopropyl [4-(2-methylphenyl)benzamide (5.50 g, 19 mmol) in anhydrous THF (50 mL) at −70° C. was added dropwise a solution of tert-butyllithium, 1.7 M in pentane (13 mL, 22 mmol). The yellow mixture was stirred at −78° C. for 30 min, after which dimethylformamide (5.7 mL, 74 mmol) was added dropwise such that the internal temperature was maintained at −70° C. The resultant mixture was stirred at this temperature over 15 min and then was allowed to warm to RT and stood for 40 min. The brown solution was quenched by slow addition of saturated aqueous NH4Cl (100 mL), keeping the internal temperature below 0° C. The resulting mixture was diluted with diethyl ether (100 mL), and stirred at RT for 10 min. The organic phase was separated and aqueous phase was extracted with diethyl ether (3×60 mL). The combined organic phases were washed with brine. The resulting organic solution was then dried over magnesium sulfate and concentrated under reduced pressure to give N,N-diisopropyl 2-formyl-4-(2-methylphenyl)benzamide as a yellow solid. MS (ESI, pos.ion) m/z: 324.2 (M+1)

reactant | 4-(2-methylphenyl)benzamide | 19 mmol, 5.50 g | CC1=C(C=CC=C1)C1=CC=C(C(=O)N)C=C1 | C14H13NO
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 22 mmol, 13 mL | CCCCC | C5H12
reactant | dimethylformamide | 74 mmol, 5.7 mL | CN(C=O)C | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N,N-diisopropyl 2-formyl-4-(2-methylphenyl)benzamide | C(C)(C)N(C(C1=C(C=C(C=C1)C1=C(C=CC=C1)C)C=O)=O)C(C)C | C21H25NO2
